US05574042
To a solution of 3-bromo-8-[2,6-dichloro-3-[N-[4-(2-chloroethoxycarbonylamino)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (128 mg) in methanol was added dropwise sodium methanolate (28% in methanol, 37 mg) under nitrogen in ice-water bath and the mixture was stirred for 1 hour at same temperature and then at ambient temperature for 2 hours. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography(ethyl acetate) to give 3-bromo-8-[2,6-dichloro-3-[N-[4-(2-oxo-3-oxazolidinyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (77 mg) as an amorphous powder.

reactant | 3-bromo-8-[2,6-dichloro-3-[N-[4-(2-chloroethoxycarbonylamino)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 128 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(C=CC2=CC=C(C=C2)NC(=O)OCCCl)=O)=O)Cl)C | C30H27BrCl3N5O5
reactant | sodium methanolate | 37 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-bromo-8-[2,6-dichloro-3-[N-[4-(2-oxo-3-oxazolidinyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 77 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(C=CC2=CC=C(C=C2)N2C(OCC2)=O)=O)=O)Cl)C | C30H26BrCl2N5O5
